US07932272B2
(5-[1,3]Dioxolan-2-yl-thiophen-2-yl)-(5-methyl-thiophen-2-yl)-methanol
n-Butyl lithium (2.44N hexane solution, 7.4 mL, 17.9 mmol) was added dropwise to a solution of 2-(5-bromo-thiophen-2-yl)-[1,3]dioxolane (4.0 g, 17 mmol) in tetrahydrofuran (50 mL) at from −75° C. to −70° C., and the solution was stirred for 10 minutes. 5-Methylthiophene-2-carbaldehyde (2.4 g, 18.7 mmol) was further added dropwise to the reaction solution at from −75° C. to −70° C. After dropwise addition was completed, the reaction solution was gradually allowed to room temperature. Water and ethyl acetate were added to the reaction mixture, which was then partitioned, and the solvent was evaporated. The residue was purified by NH silica gel column chromatography (hexane:ethyl acetate=4:1, then 2:1), and the title compound (2.0 g, 7.09 mmol, 41.7%) was obtained as a brown oil.

reactant | n-Butyl lithium | 17.9 mmol, 2.44N, 7.4 mL | C(CCC)[Li]
reactant | 2-(5-bromo-thiophen-2-yl)-[1,3]dioxolane | 17 mmol, 4.0 g | BrC1=CC=C(S1)C1OCCO1 | C7H7BrO2S
reactant | 5-Methylthiophene-2-carbaldehyde | 18.7 mmol, 2.4 g | CC1=CC=C(S1)C=O | C6H6OS
reactant | Water | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5-[1,3]Dioxolan-2-yl-thiophen-2-yl)-(5-methyl-thiophen-2-yl)-methanol | 7.09 mmol, 2.0 g, 41.7% | O1C(OCC1)C1=CC=C(S1)C(O)C=1SC(=CC1)C | C13H14O3S2
